.INCLUDE '32nm_HP.pm'

.PARAM Lmin=32n
.PARAM Wmin=32n
.PARAM Ldiff=64n
.PARAM supply=1.1
.temp 25

Mp drain gate source body pmos W={Wmin} L={Lmin} AS={Wmin*Ldiff} AD={Wmin*Ldiff} PS={2*(Ldiff+Wmin)} PD={2*(Ldiff+Wmin)}

Vd 	drain	alimd   0
Vg 	gate	alimg   0		
Vs 	source	0   supply
Vb 	body 0  supply
Vdd alimd 0	  DC
Vgg alimg 0   DC

.CONTROL

DC Vdd 0 1.1 0.01 Vgg 0 1.1 0.1

print  V(drain) V(gate) V(source) V(body) I(Vd) I(Vg) I(Vs) I(Vb)
print ""

.ENDC
.END